US06949542B2
4-Methyl-8-trifluoromethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one; Compound with 2-phenyl-pyridine
The title compound was prepared from {2-[3-oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-4-trifluoromethoxy-phenyl}-carbamic acid tert-butyl ester (Example M186) (255 mg, 0.495 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (137 mg, 70%).

reactant | {2-[3-oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-4-trifluoromethoxy-phenyl}-carbamic acid tert-butyl ester | 0.495 mmol, 255 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O)=O | C26H24F3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-Methyl-8-trifluoromethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one; Compound with 2-phenyl-pyridine | C1(=CC=CC=C1)C1=NC=CC=C1.CC1=NC2=C(NC(C1)=O)C=C(C=C2)OC(F)(F)F | InChI=1S/C11H9F3N2O2.C11H9N/c1-6-4-10(17)16-9-5-7(18-11(12,13)14)2-3-8(9)15-6;1-2-6-10(7-3-1)11-8-4-5-9-12-11/h2-3,5H,4H2,1H3,(H,16,17);1-9H
